US08754226B2
A flask was charged with (S)-tert-butyl 3-(2,6-difluoro-4-(methylsulfonyl)phenylamino)-2-oxo-1,4′-bipiperidine-1′-carboxylate (1.2 g, 2.46 mmol), HCl (6.15 mL, 24.6 mmol), DCM (25 mL), and methanol (1 mL). The reaction mixture was stirred at ambient temperature overnight. The organic solvents were removed under reduced pressure to afford (S)-3-(2,6-difluoro-4-(methylsulfonyl)phenylamino)-[1,4′-bipiperidin]-2-one hydrochloride (0.986 g, 94.5% yield). Mass spectrum (apci) m/z=388.2 (M+H).

reactant | (S)-tert-butyl 3-(2,6-difluoro-4-(methylsulfonyl)phenylamino)-2-oxo-1,4′-bipiperidine-1′-carboxylate | 2.46 mmol, 1.2 g | FC1=C(C(=CC(=C1)S(=O)(=O)C)F)N[C@@H]1C(N(CCC1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C22H31F2N3O5S
reactant | HCl | 24.6 mmol, 6.15 mL | Cl | ClH
reactant | DCM | 25 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 1 mL | CO | CH4O
product | (S)-3-(2,6-difluoro-4-(methylsulfonyl)phenylamino)-[1,4′-bipiperidin]-2-one hydrochloride | 0.986 g, 94.5% yield | Cl.FC1=C(C(=CC(=C1)S(=O)(=O)C)F)N[C@@H]1C(N(CCC1)C1CCNCC1)=O | InChI=1S/C17H23F2N3O3S.ClH/c1-26(24,25)12-9-13(18)16(14(19)10-12)21-15-3-2-8-22(17(15)23)11-4-6-20-7-5-11;/h9-11,15,20-21H,2-8H2,1H3;1H/t15-;/m0./s1
